US08440689B2
E. (R)-2-(7-Fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-N,4-dimethylpentanamide
A solution of (R)-2-(2-(2,4-dimethoxybenzyl)-7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-N,4-dimethylpentanamide (38 mg, 0.072 mmol) in TFA (5 mL) was heated to 65° C. for 4 h. After removal of the solvent, the residue was diluted in MeOH (2 mL) and was purified by preparative HPLC eluting with water (0.05% TFA) and ACN (25-30%, gradient, 0.035% TFA). The collected fractions were stripped to dryness to give the title compound. 1H NMR (500 MHz, DMSO-d6) δ ppm 0.84-0.93 (m, 6H), 1.63-1.81 (m, 2H), 2.57 (d, J=4.39 Hz, 3H), 3.88 (s, 3H), 4.04-4.19 (m, 2H), 4.36 (s, 2H), 6.99 (d, J=7.32 Hz, 1H), 7.61-7.76 (m, 1H), 7.93 (d, J=4.39 Hz, 1H), 8.30 (s, 1H), 8.83 (s, 1H). [M+H] calc'd for C18H23FN6O2, 375. found, 375.

reactant | (R)-2-(2-(2,4-dimethoxybenzyl)-7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-N,4-dimethylpentanamide | 0.072 mmol, 38 mg | COC1=C(CN2C(C=3C(=NC(=C(C3C2)F)N[C@@H](C(=O)NC)CC(C)C)C=2C=NN(C2)C)=O)C=CC(=C1)OC | C27H33FN6O4
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-2-(7-Fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-N,4-dimethylpentanamide | FC=1C2=C(C(=NC1N[C@@H](C(=O)NC)CC(C)C)C=1C=NN(C1)C)C(NC2)=O | C18H23FN6O2
